US07091352B2
1) 3-Bromo-5-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole
5-(4-Fluorophenyl)-4-(pyridin-4-yl)pyrazole (6.0 g (25 mmol), prepared as described in WO 00/31063) was dissolved in dimethylformamide (60 ml). To the solution was added N-bromosuccinimide (8.93 g, 50 mmol), and the resulting mixture was stirred at room temperature for 3 days. At the end of this time, water was added to the reaction mixture, and the precipitated crystals were collected by filtration and washed with diethyl ether, to give the title compound (5.73 g) as a white powder (yield 72%).

reactant | 5-(4-Fluorophenyl)-4-(pyridin-4-yl)pyrazole | 25 mmol, 6.0 g | FC1=CC=C(C=C1)C1=C(C=NN1)C1=CC=NC=C1 | C14H10FN3
reactant | N-bromosuccinimide | 50 mmol, 8.93 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 3-Bromo-5-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole | 5.73 g, yield 72% | BrC1=NNC(=C1C1=CC=NC=C1)C1=CC=C(C=C1)F | C14H9BrFN3
